US06579883B1
C) 3a-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 350 mg (1.1 mmol) of 5-tert-butoxycarbonyl-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 5 mL of dichloromethane is mixed with 5 ml of trifluoroacetic acid at room temperature. After 1 hour, the batch is diluted with water (100 ml) and ethyl acetate (100 ml). The organic phase is separated, washed with water (50 ml), saturated NaHCO3, (2×50 ml) and saturated NaCl (50 ml), dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 160 mg of product.

reactant | 5-tert-butoxycarbonyl-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.1 mmol, 350 mg | C(C)(C)(C)OC(=O)N1C(C2(C(C=3C=CC=CC13)CCC2)F)=O | C17H20FNO3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3a-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 160 mg | FC12C(NC=3C=CC=CC3C1CCC2)=O | C12H12FNO
